US04760163
1.14 g of isopropyl 2-chloro-4-fluoro-5-[5-chloromethyl-3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate and 0.21 g of sodium methanethiolate in 5 ml of dimethylformamide are stirred at room temperature for 16 hours. The reaction mixture is poured into 100 ml of water and the aqueous mixture is extracted with 50 ml of ethyl acetate. The organic phase is washed with water, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using diethyl ether/n-hexane (7:1) as the eluent. There is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,4-dimethyl-5-methylthiomethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.83 ppm (d, 1H), 7.33 ppm (d, 1H), 5.23 ppm (m, 1H), 3.67 ppm (d, 1H), 3.62 ppm (d, 1H), 3.50 ppm (s, 3H), 2.43 ppm (s, 3H), 2.17 ppm (s, 3H), 1.36 ppm (2xd, 6H).

reactant | isopropyl 2-chloro-4-fluoro-5-[5-chloromethyl-3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | 1.14 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=C(C1=O)CCl)C)C)=O | C17H17Cl2FN2O4
reactant | sodium methanethiolate | 0.21 g | C[S-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,4-dimethyl-5-methylthiomethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=C(C1=O)CSC)C)C)=O | C18H20ClFN2O4S
